US07700638B2
7-(3-Acetylphenyl)-1-phenyl-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (7.38 g, 19 mmol), 3-acetylphenyl boronic acid (4.67 g, 28.5 mmol), 1,3-propanediol (6.8 ml, 95 mmol), potassium carbonate (13.1 g, 95 mmol) and bis(triphenylphosphin)palladium dichloride (200 mg, 0.28 mmol) in a mixture of dimethoxyethane (60 ml) and water (30 ml) was stirred at reflux in a nitrogen atmosphere for 1 hour. The cooled reaction mixture was filtered through a pad of Celite and the filter was rinsed with ethyl acetate. The organic layer was collected, dried over magnesium sulphate and concentrated under reduced pressure. The title product precipitated upon addition of diethyl ether to the concentrate (6.17 g, 85%) m/z, 381.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 19 mmol, 7.38 g | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | 3-acetylphenyl boronic acid | 28.5 mmol, 4.67 g | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
reactant | 1,3-propanediol | 95 mmol, 6.8 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 95 mmol, 13.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
solvent | water | 30 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.28 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Acetylphenyl)-1-phenyl-5-trifluoromethylbenzimidazole | C(C)(=O)C=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C22H15F3N2O
